US07759518B2
Step E: 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-5-methyl-6-nitroaniline
2-Fluoro-4-iodoaniline and 1,2,3-trifluoro-5-methyl-4-nitrobenzene were reacted using the condition described in Example 1 (Step A) to form the title compound. M−H+: 407.9

reactant | 2-Fluoro-4-iodoaniline | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | 1,2,3-trifluoro-5-methyl-4-nitrobenzene | FC1=C(C(=C(C(=C1)C)[N+](=O)[O-])F)F | C7H4F3NO2
product | 2,3-Difluoro-N-(2-fluoro-4-iodophenyl)-5-methyl-6-nitroaniline | FC1=C(NC2=C(C=C(C=C2)I)F)C(=C(C=C1F)C)[N+](=O)[O-] | C13H8F3IN2O2
